US08314100B2
1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2,6-dimethylphenyl)piperazine (Compound 9)
Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate and 1-(2,6-dimethylphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound (yield, 65%). 1H NMR (300 MHz, CDCl3): δ 2.26 (s, 3H), 3.20 (s, 4H), 3.71 (s, 3H), 4.12-4.18 (m, 4H), 6.99-7.01 (m, 3H), 7.26-7.32 (m, 2H), 7.53-7.81 (m, 2H).

reactant | Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12FN3O3
reactant | 1-(2,6-dimethylphenyl)piperazine | CC1=C(C(=CC=C1)C)N1CCNCC1 | C12H18N2
product | 1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2,6-dimethylphenyl)piperazine | 65% | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1C)C | C22H24FN5O2
